US03997547
2-(4-Chlorophenylimino)-2H-quinolizine
A suspension of 2-(4-chloroanilino)quinolizinium bromide (30 g., 0.09 mole) in 500 ml of 1N NaOH solution was warmed to 50° and stirred for 30 minutes. The crude product was removed by filtration and dried. The product (20 g., 87%) was recrystallized from ethanol to give material which melted at 183°-184°.

reactant | 2-(4-chloroanilino)quinolizinium bromide | 0.09 mole, 30 g | [Br-].ClC1=CC=C(NC2=CC3=CC=CC=[N+]3C=C2)C=C1
solvent | NaOH | 1N, 500 ml | [OH-].[Na+]
product | 2-(4-Chlorophenylimino)-2H-quinolizine | ClC1=CC=C(C=C1)N=C1C=C2C=CC=CN2C=C1 | C15H11ClN2
